US04713387
In 4 ml of 2-propanol were dissolved 1.01 g of 2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl acetoacetate, 0.38 g of isopropyl 3-aminocrotonate and 0.40 g of 3-nitrobenzaldehyde, and the resulting mixture was subjected to reaction under reflux for 3 hours. Subsequently, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (1:1 by volume)] to obtain 1.28 g (yield 71.5%) of yellow, oily 3-[2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl] 5-isopropyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | 2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl acetoacetate | 1.01 g | C(CC(=O)C)(=O)OCCN(C\C(=C\C1=CC=C(C=C1)CC=1C=NC=CC1)\C)C | C23H28N2O3
reactant | isopropyl 3-aminocrotonate | 0.38 g | N\C(=C/C(=O)OC(C)C)\C | C7H13NO2
reactant | 3-nitrobenzaldehyde | 0.40 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
product | 3-[2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl] 5-isopropyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | yield 71.5% | CC=1NC(=C(C(C1C(=O)OCCN(C\C(=C\C1=CC=C(C=C1)CC=1C=NC=CC1)\C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C37H42N4O6
